US07521457B2
a) 8-dibenzylamino-3,4-dihydro-2H-isoquinolin-1-one
1.466 g (9.039 mmol) 8-amino-3,4-dihydro-2H-isoquinolin-1-one are dissolved in 15 ml DMF and combined with 3.226 g (23.340 mmol) potassium carbonate and with 3.808 ml (31.420 mmol) benzylbromide. This reaction mixture is stirred for 16 h at 50° C. The reaction mixture is diluted with ethyl acetate and extracted with sodium hydrogen carbonate solution. The organic phases are dried and the solvent is eliminated in vacuo.

reactant | 8-amino-3,4-dihydro-2H-isoquinolin-1-one | 9.039 mmol, 1.466 g | NC=1C=CC=C2CCNC(C12)=O | C9H10N2O
reactant | potassium carbonate | 23.340 mmol, 3.226 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 31.420 mmol, 3.808 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-dibenzylamino-3,4-dihydro-2H-isoquinolin-1-one | C(C1=CC=CC=C1)N(C=1C=CC=C2CCNC(C12)=O)CC1=CC=CC=C1 | C23H22N2O
